US07786132B2
(ii) 4-(2-(Benzo[b]thiophen-5-yloxy)ethyl)morpholine
5-(2-Chloroethoxy)benzo[b]thiophene (0.25 g, 1.17 mmol) was dissolved in DMF (3 mL) and treated with morpholine (0.205 mL, 2.35 mmol) and sodium iodide (0.035 g, 0.235 mmol). The mixture was heated to 70° C. and stirred overnight. The reaction was cooled down to room temperature and poured into a saturated aqueous solution of sodium bicarbonate (20 mL), which was extracted several times with ethyl acetate. All the organic extracts were combined and washed with a saturated aqueous solution of sodium bicarbonate, water and brine. The ethyl acetate layer was then dried with sodium sulfate and purified by flash chromatography using a gradient of 0 to 8% methanol in dichloromethane to obtain a clear oil. Yield=0.237 g. MS (M+H)+ 264.

reactant | 5-(2-Chloroethoxy)benzo[b]thiophene | 1.17 mmol, 0.25 g | ClCCOC1=CC2=C(SC=C2)C=C1 | C10H9ClOS
reactant | morpholine | 2.35 mmol, 0.205 mL | N1CCOCC1 | C4H9NO
reactant | sodium iodide | 0.235 mmol, 0.035 g | [I-].[Na+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(2-(Benzo[b]thiophen-5-yloxy)ethyl)morpholine | S1C2=C(C=C1)C=C(C=C2)OCCN2CCOCC2 | C14H17NO2S
